US06313126B1
4-(6-Fluoro-chroman-8-yl)-piperazine
A mixture of 1-benzyl-4-(6-fluoro-chroman-8-yl)-piperazine (1.64 g, 5 mmol), 10% palladium on carbon (0.4 g) and ammonium formate (0.64 g, 10 mmol) in ethanol (20 ml) was allowed to refux for 2 hours. The catalyst was filtered off and the solvent removed under vacuum. Chromatography (10-20% methanol-methylene chloride plus ammonium hydroxide) afforded 1.0 g (84%) of product as a yellow oil; MS EI m/e 296 (M+).

reactant | 1-benzyl-4-(6-fluoro-chroman-8-yl)-piperazine | 5 mmol, 1.64 g | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C(C=C2CCCOC12)F | C20H23FN2O
reactant | ammonium formate | 10 mmol, 0.64 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(6-Fluoro-chroman-8-yl)-piperazine | 1.0 g, 84% | FC=1C=C2CCCOC2=C(C1)N1CCNCC1 | C13H17FN2O
